US07572809B2
a) Preparation of 1-(2,4-difluoro-phenyl)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol
To a solution of [1-(2,4-difluoro-phenyl)-6-methoxy-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine (11.0 g) in 10 mL acetic acid was added hydrobromic acid (1 mL, 40%). The mixture was heated at 180° C. for 30 min under microwave irradiation. After cooling, most of the solvent was removed under reduced pressure, the residue was dissolved in 100 mL of ethyl acetate and washed with saturated sodium bicarbonate. The organic phase was dried with anhydrous sodium sulfate and concentrated to give an oil (0.92 g), which was used for the next reaction without further purification. (LC-MS m/e 353 MH+).

reactant | [1-(2,4-difluoro-phenyl)-6-methoxy-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | 11.0 g | FC1=C(C=CC(=C1)F)C1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C20H16F2N4O
reactant | hydrobromic acid | 1 mL | Br | BrH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 1-(2,4-difluoro-phenyl)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 0.92 g | FC1=C(C=CC(=C1)F)C1=NC(=CC2=CC(=CC=C12)O)NC1=NNC(=C1)C | C19H14F2N4O
